US07037935B2
A mixture of 2.35 g (18.6 mmol) of 3-fluorobenzylalcohol and 0.55 g (1.7 mmol) of tris[2-(2-methoxyethoxy)ethyl]amine is treated portionwise under stirring with 1.06 g (18.6 mmol) of potassium hydroxide. Stirring is continued for 10 min if necessary under slight heating to reach a homogenous reaction mixture. Thereafter, 3.0 g (16.9 mmol) of 2,4,5-trifluoronitrobenzene are added dropwise. The reaction mixture becomes solid and is heated to 100° C. for 2 hours. For the working-up, the mixture is cooled to RT, then 25 ml water and 25 ml ethyl acetate are added and stirring continued for 30 min. The organic layer is separated and the aqueous layer is extracted twice with ethyl acetate. The combined organic layers are washed with water, then twice with 2N hydrochloric acid and finally with water. After drying over magnesium sulfate, the solution is evaporated under reduced pressure. During evaporation, the byproduct, 1-fluoro-2,4-bis-(3-fluoro-benzyloxy)-5-nitro-benzene precipitates. For purification, the material obtained is chromatographed on silica gel using a 4:1-mixture of n-hexane and ethyl acetate as the eluent. There are obtained 2.63 g (55% of theory) of the 1,4-difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene as an off-white solid. MS: m/e=283 (M)+.

reactant | 3-fluorobenzylalcohol | 18.6 mmol, 2.35 g | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 1.7 mmol, 0.55 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | potassium hydroxide | 18.6 mmol, 1.06 g | [OH-].[K+]
reactant | 2,4,5-trifluoronitrobenzene | 16.9 mmol, 3.0 g | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
product | 1,4-difluoro-2-(3-fluoro-benzyloxy)-5-nitro-benzene | 2.63 g, 55% | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)OCC1=CC(=CC=C1)F | C13H8F3NO3
